US06599902B2
To a solution of (S)-pyrrolidine-2-carboxylic acid cyclopropyl-methyl-amide in THF at 0° C. was added borane (2 eq., 1 M in THF) dropwise. The mixture was allowed to warm up to rt then heated to reflux for 24 hours. The cooled reaction was acidified with HCl and heated at 75° C. for 10 mins. The mixture was concentrated, basified with 2N NaOH and extracted with 10% methanol in DCM. The combined DCM was dried and concentrated to give cyclopropyl-methyl-(S)-1-pyrrolidin-2-ylmethyl-amine.

reactant | (S)-pyrrolidine-2-carboxylic acid cyclopropyl-methyl-amide | C1(CC1)N(C(=O)[C@H]1NCCC1)C | C9H16N2O
reactant | borane | 1 M, 2 eq. | B | BH3
reactant | HCl | Cl | ClH
solvent | THF | C1CCOC1 | C4H8O
product | cyclopropyl-methyl-(S)-1-pyrrolidin-2-ylmethyl-amine | C1(CC1)N(C[C@H]1NCCC1)C | C9H18N2
